US05990101
(1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(7-methylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate (internal salt)
The same procedure as in Example 1 was repeated except that 103 mg of allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate and 117 mg of 7-methylimidazo[5,1-b]thiazole were used, thereby obtaining 7.8 mg of the title compound.

reactant | allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate | 103 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | 7-methylimidazo[5,1-b]thiazole | 117 mg | CC=1N=CN2C1SC=C2 | C6H6N2S
product | (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(7-methylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate | 7.8 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2C=[N+]3C(SC=C3)=C2C)C(=O)[O-])C1=O | C17H19N3O4S
